US05703109
c) 1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-propanol
1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-propanone (6.35 g, 25 mmol) is dissolved in methanol (50 ml). Sodium borohydride (0.48 g, 12.6 mmol) is added and the mixture is stirred in 30° C. for 1 h. The mixture is rendered acidic with 2M hydrochloric acid and the solvent is evaporated. The residue is dissolved into ethyl acetate. The solution is washed with dilute sodium hydroxide and water, dried and the solvent is evaporated. The product is used for the next step without further purification.

reactant | 1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-propanone | 25 mmol, 6.35 g | C(#N)C1=CC=C(C=C1)C(CCC1=CC=C(C=C1)F)=O | C16H12FNO
reactant | Sodium borohydride | 12.6 mmol, 0.48 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-propanol | C(#N)C1=CC=C(C=C1)C(CCC1=CC=C(C=C1)F)O | C16H14FNO
